US05258405
N-Cycloheptyl-[(2-phenanthrenyl)methyl]amine
2-Methylphenanthrene (2.00 g, 10.4 mmol) was brominated with N-bromosuccinimide (2.05 g, 11.5 mmol) and the product compound was added gradually to a suspension of cycloheptylamine (2.38 g, 21.0 mmol) and potassium carbonate (2.90 g, 21.0 mmol) in dimethylformamide (20 ml) with ice-cooling. The mixture was then stirred at room temperature for 16 hrs and, then, filtered and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 2.11 g of a viscous liquid.

reactant | 2-Methylphenanthrene | 10.4 mmol, 2.00 g | CC1=CC=2C=CC3=CC=CC=C3C2C=C1 | C15H12
reactant | N-bromosuccinimide | 11.5 mmol, 2.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | cycloheptylamine | 21.0 mmol, 2.38 g | C1(CCCCCC1)N | C7H15N
reactant | potassium carbonate | 21.0 mmol, 2.90 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-Cycloheptyl-[(2-phenanthrenyl)methyl]amine | 2.11 g | C1(CCCCCC1)NCC1=CC=2C=CC3=CC=CC=C3C2C=C1 | C22H25N
